US09102673B2
Steps 2: tert-butyl 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate
To a solution of 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine (1.2 g, 4.27 mmol) in THF (28.5 mL) cooled to 0 C was added NaH (0.26 g, 6.4 mmol, 60% dispersion). The mixture was then warmed to r.t., stirred 1 h, and then cooled back to 0 C. Boc2O (1.1 mL, 4.7 mmol) was then added and the mixture was warmed back to r.t. After 2 h, EtOAc was added and the mixture was extracted with water 2×. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified on silica (gradient elution, 0-20% EtOAc/hexanes) to yield the title product (1.56 g). HRMS (ESI) calc (M+H)+=378.9705. found 378.9692.

reactant | 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine | 4.27 mmol, 1.2 g | ClC=1N=CC=C2C1NC=C2I | C7H4ClIN2
reactant | NaH | 6.4 mmol, 0.26 g | [H-].[Na+]
reactant | Boc2O | 4.7 mmol, 1.1 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 28.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 1.56 g | ClC=1N=CC=C2C1N(C=C2I)C(=O)OC(C)(C)C | C12H12ClIN2O2
